US06784167B2
To a 0° C. solution of sodium nitrite (80 mg, 1.15 mmol) in sulfuric acid (2 mL) was added dropwise a solution of (±)-(4R*,5R)-5-ethoxycarbonyl-1-methyl-4-(4-aminophenyl)pyrrolidin-2-one (prepared according to the procedure for Intermediate U, 200 mg, 0.763 mmol) in glacial acetic acid (2 mL). The mixture was allowed to warm to room temperature and stirred for 40 min. The reaction was then cooled to 0° C. and a solution of potassium iodide (300 mg) and iodine (233 mg) in water (2 mL) was added in one portion. The dark mixture was stirred for 10 min at 0° C., followed by addition of enough aqueous solution of saturated sodium thiosulfate to lighten the reaction color. The mixture was then diluted with water (10 mL) and extracted with EtOAc. The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The oily residue was purified by flash chromatography (gradient from 75% EtOAc/hex to 100% EtOAc) to give (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-iodophenyl)pyrrolidin-2-one (125 mg, 44%) as a white powder: mp 120-121° C.; TLC (EtOAc) Rf0.59; HPLC ES-MS m/z (rel abundance) 374 (MH+, 100%).

reactant | sodium nitrite | 1.15 mmol, 80 mg | N(=O)[O-].[Na+]
reactant | (±)-(4R*,5R)-5-ethoxycarbonyl-1-methyl-4-(4-aminophenyl)pyrrolidin-2-one | C(C)OC(=O)[C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)N | C14H18N2O3
reactant | potassium iodide | 300 mg | [I-].[K+]
reactant | iodine | 233 mg | II | I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | (±)-(4R*,5R*)-5-ethoxycarbonyl-1-methyl-4-(4-iodophenyl)pyrrolidin-2-one | 125 mg, 44% | C(C)OC(=O)[C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)I | C14H16INO3
